US08114882B2
Preparation of (2-chloropyrimidin-4-yl)quinolin-3-ylamine
50 g (0.34 mol) of 2,4-dichloropyrimidine and 50 g (0.35 mol) of 3-amino-quinoline are combined and kept at the boil under reflux for 50 h in 400 ml of 2-propanol with 100 ml of ethyldiisopropylamine. The reaction mixture is poured into 3 l of ice-water, the precipitate is filtered off with suction and washed with water. The residue is recrystallised from acetone, giving 60 g of pale-grey crystals (m.p.: 140-143° C.) (2-chloropyrimidin-4-yl)quinolin-3-ylamine.

reactant | 2,4-dichloropyrimidine | 0.34 mol, 50 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 3-amino-quinoline | 0.35 mol, 50 g | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
reactant | ethyldiisopropylamine | 100 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | 2-propanol | 400 ml | CC(C)O | C3H8O
product | (2-chloropyrimidin-4-yl)quinolin-3-ylamine | 60 g | ClC1=NC=CC(=N1)NC=1C=NC2=CC=CC=C2C1 | C13H9ClN4
